US07417064B2
a) 7-Bromo-4-methoxy-benzo[d]isothiazole
To a solution of 4-methoxy-benzo[d]isothiazole (prepared as described above) (1.0 g, 6.05 mmol) in carbon tetrachloride (20 mL) at 0° C. was added bromine (310 μL, 6.05 mmol) in carbon tetrachloride (10 mL). The reaction was allowed to stir at 0° C. for 3 h and was then warmed to rt. Saturated aqueous NaHCO3 and dichloromethane were added and the organic phase was separated. The aqueous phase was extracted with 2×20 mL dichloromethane. The combined organic phases were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography eluting silica gel with EtOAc:hexane [0:100 to 1:20] to yield the title compound (980 mg, 66%): δH (300 MHz, CDCl3): 9.09 (1H, s), 7.52 (1H, d, J=8.1 Hz), 6.67 (1H, d, J=8.4 Hz), 4.00 (3H, s).

reactant | 4-methoxy-benzo[d]isothiazole | 6.05 mmol, 1.0 g | COC1=CC=CC2=C1C=NS2 | C8H7NOS
reactant | bromine | 6.05 mmol, 310 μL | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromo-4-methoxy-benzo[d]isothiazole | 980 mg, 66% | BrC1=CC=C(C=2C=NSC21)OC | C8H6BrNOS
